US05976486
Synthesis of 2,6-Bis (4-phosphonobutyloxy)-anthraquinone (ANQ) (Formula: H2O3P--(CH2)4O--2,6-anthraquinone--O(CH2)4 --PO3H2).
2,6-dihydroxyanthraquinone (1.19 g, 4.98 mmol) and diethyl(4-bromobutyl)phosphonate (3.0 g, 10 mmol) were heated at 60 ° C. in 5 ml DMF in the presence of 0.8 g of K2CO3 for 72 hours. The solution was extracted with CH2Cl2. The CH2Cl2 solution was dried, leaving a yellow solid. The ester was purified by column chromatography. The bisphosphonate ester was converted to the acid by overnight stirring with 4-fold excess of bromotrimethylsilane in dry dichloromethane followed by addition of water. The bisphosphonic acid derivative was washed with CH2Cl2, filtered and collected.

reactant | 2,6-dihydroxyanthraquinone | 4.98 mmol, 1.19 g | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | diethyl(4-bromobutyl)phosphonate | 10 mmol, 3.0 g | C(C)OP(OCC)(=O)CCCCBr | C8H18BrO3P
reactant | K2CO3 | 0.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2,6-Bis (4-phosphonobutyloxy)-anthraquinone | P(=O)(O)(O)CCCCOC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OCCCCP(=O)(O)O)=O | C22H26O10P2
